US08802688B2
2-bicyclo[1.1.1]pent-1-yl-1′-(1H-indazol-5-ylcarbonyl)-2,4-dihydrospiro[indazole-5,4′-piperidin]-7(6H)-one
The title compound was prepared by a method analogous to that described in Example 1, using 2-(bicyclo[1.1.1]pentan-1-yl)-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(2H)-one and 1H-indazole-5-carboxylic acid. +ESI (M+H) 416.2; HPLC retention time 2.32 minutes (Method A).

reactant | 2-(bicyclo[1.1.1]pentan-1-yl)-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(2H)-one | C12(CC(C1)C2)N2N=C1C(CC3(CCNCC3)CC1=C2)=O | C16H21N3O
reactant | 1H-indazole-5-carboxylic acid | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
product | 2-bicyclo[1.1.1]pent-1-yl-1′-(1H-indazol-5-ylcarbonyl)-2,4-dihydrospiro[indazole-5,4′-piperidin]-7(6H)-one | C12(CC(C1)C2)N2N=C1C(CC3(CCN(CC3)C(=O)C=3C=C4C=NNC4=CC3)CC1=C2)=O | C24H25N5O2
